US07456200B2
Methanol (20 ml) was added to a solution 5-chloro-2-fluoro-benzoyl chloride (1.2 g, 6.2 mmol) in dichloromethane (10 ml) in an ice-bath. The reaction mixture was warmed to room temperature, stirred for 3 h and then concentrated to afford 5-chloro-2-fluoro-benzoic acid methyl ester (1.17 g, 100%). 1H NMR (CDCl3), δ (ppm): 7.93 (m, 1H), 7.48 (m, 1H), 7.12 (m, 1H), 3.96 (s, 3H). Step 2: 5-Chloro-2-fluoro-benzoic acid hydrazide: A mixture of 5-chloro-2-fluoro-benzoic acid methyl ester (1.17 g, 6.2 mmol) and hydrazine monohydrate (0.451 ml, 9.3 mmol) in ethanol (20 ml) was stirred at room temperature overnight. The reaction mixture was concentrated and then the residue was triturated with diethyl ether to afford 5-chloro-2-fluoro-benzoic acid hydrazide (497 mg, 42%, white solid). 1H NMR (DMSO), δ (ppm): 9.66 (bs, 1H), 7.58 (m, 2H), 7.36 (m, 1H), 4.58 (bs, 2H).

reactant | Methanol | 20 ml | CO | CH4O
reactant | 5-chloro-2-fluoro-benzoyl chloride | 6.2 mmol, 1.2 g | ClC=1C=CC(=C(C(=O)Cl)C1)F | C7H3Cl2FO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-chloro-2-fluoro-benzoic acid methyl ester | 1.17 g, 100% | COC(C1=C(C=CC(=C1)Cl)F)=O | C8H6ClFO2
